US08580762B2
Step 4i. 3-({[2-amino-5-(trifluoromethyl)phenyl]carbamoyl}methyl)-N-methoxy-N-methylcyclobutane-1-carboxamide
TEA (1.49 ml, 10.70 mmol) was added to a suspension of 2-{3-[methoxy(methyl)carbamoyl]cyclobutyl}acetic acid, EDC.HCl 1.18 g, 6.20 mmol), HOBt.xH2O (0.77 g, 5.69 mmol) in DCM (20 ml) at 0° C. and stirred for 5 min before the addition of 4-(trifluoromethyl)benzene-1,2-diamine (1.04 g, 10.34 mmol). This was stirred for a further 20 min at 0° C. then allowed to warm to RT. The reaction was monitored by LC MS, after 2 hours the reaction mixture was washed with 1N HCl (50 ml) then sat. NaHCO3 (50 ml). This was dried over Na2SO4, filtered and evaporated to dryness. Purification by silica gel column chromatography, eluting with EtOAc gave the desired product (0.83 g, 44%) as a beige solid;

reactant | 2-{3-[methoxy(methyl)carbamoyl]cyclobutyl}acetic acid | CON(C(=O)C1CC(C1)CC(=O)O)C | C9H15NO4
reactant | EDC.HCl | 6.20 mmol, 1.18 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-(trifluoromethyl)benzene-1,2-diamine | 10.34 mmol, 1.04 g | FC(C=1C=C(C(=CC1)N)N)(F)F | C7H7F3N2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-({[2-amino-5-(trifluoromethyl)phenyl]carbamoyl}methyl)-N-methoxy-N-methylcyclobutane-1-carboxamide | 0.83 g, 44% | NC1=C(C=C(C=C1)C(F)(F)F)NC(=O)CC1CC(C1)C(=O)N(C)OC | C16H20F3N3O3
